US08211927B2
To a solution of ethyl 5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate (2.0 g, 6.60 mmol) in tetrahydrofuran (25 mL) was added lithium aluminium hydride (375 mg, 9.89 mmol) and the reaction mixture was stirred for 2 hours at room temperature. The reaction was quenched by the addition of water (0.18 mL) followed by an aqueous solution of 1N NaOH (0.18 mL) and finally water (0.54 mL) over a 30 minute period. The resultant viscous grey slurry was diluted with diethyl ether (50 mL) and stirred for 30 minutes before filtering through a celite pad. The cake was washed with diethyl ether (3×70 mL) and the filtrate evaporated to dryness in vacuo to obtain (5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazol-3-yl)methanol (1.43 g, 5.48 mmol).

reactant | ethyl 5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate | 6.60 mmol, 2.0 g | FC=1C=C(C=CC1C(F)(F)F)C1=CC(=NO1)C(=O)OCC | C13H9F4NO3
reactant | lithium aluminium hydride | 9.89 mmol, 375 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazol-3-yl)methanol | 5.48 mmol, 1.43 g | FC=1C=C(C=CC1C(F)(F)F)C1=CC(=NO1)CO | C11H7F4NO2
